US06271264B1
To a 1L 3-necked round-bottomed flask, was added 100.0 g of 1,2,3,4-tetrahydroisoquinoline dissolved in 150 mL diethyl ether. The reaction mixture was cooled to 5° C. with an ice. While stirring, 45.4 g of allyl bromide in 60 mL diethyl ether was added slowly to the amine solution. After addition was complete, the reaction mixture was allowed to stir at room temperature for 18 hours. The reaction mixture was diluted with 300 mL diethyl ether, and the white precipitate was removed by filtration. Ether was removed from the filtrate under reduced pressure using a rotary evaporator yielding 64.0 g of N-allyl 1,2,3,4-tetrahydroisoquinoline as a viscous liquid. To a 500 mL 3-necked round-bottomed flask was added 61 g of N-allyl 1,2,3,4-tetrahydroisoquinoline dissolved in 100 mL diethyl ether. After cooling to 5° C. with an ice bath, 42.6 g of allyl bromide in 60 mL diethyl ether was added slowly. After completion of addition of allyl bromide, the reaction mixture was allowed to warm to room temperature and stirred at room temperature for 24 hours. The solid residue thus formed was collected by filtration and was washed with diethyl ether (2×500 mL). The washed solid was recrystallized from acetonitrile. After removal of acetonitrile by filtration, the residue was dried under vacuum yielding 55.0 g of N,N-diallyl 1,2,3,4-tetrahydroisoquinolinium bromide as a white solid.

reactant | N-allyl 1,2,3,4-tetrahydroisoquinoline | 61 g | C(C=C)N1CC2=CC=CC=C2CC1 | C12H15N
reactant | allyl bromide | 42.6 g | C(C=C)Br | C3H5Br
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
product | N,N-diallyl 1,2,3,4-tetrahydroisoquinolinium bromide | 55.0 g | [Br-].C(C=C)[N+]1(CC2=CC=CC=C2CC1)CC=C | InChI=1S/C15H20N.BrH/c1-3-10-16(11-4-2)12-9-14-7-5-6-8-15(14)13-16;/h3-8H,1-2,9-13H2;1H/q+1;/p-1
